US08383631B2
3-amino-1-[{4-(2,3,4-trimethoxybenzyl)piperazin-1-yl}propanoyl]-6-N-(p-methoxyphenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one (Compound 14)
A target compound (136.1 mg, 0.235 mmol, 46.8%) was yielded as white solid in the same manner as Example 1 by reacting 3-amino-5,6-dihydro-6-N-(4-methoxyphenyl)-1H-pyrazolo[3,4-c]pyridin-7(4H)-one (129.8 mg, 0.502 mmol) with potassium carbonate (104.0 mg, 0.753 mmol) and 1-{4-(2,3,4-trimethoxybenzyl)piperazin-1-yl}-3-chloropropan-1-one (196.9 mg, 0.552 mmol).

reactant | 3-amino-5,6-dihydro-6-N-(4-methoxyphenyl)-1H-pyrazolo[3,4-c]pyridin-7(4H)-one | 0.502 mmol, 129.8 mg | NC1=NNC=2C(N(CCC21)C2=CC=C(C=C2)OC)=O | C13H14N4O2
reactant | potassium carbonate | 0.753 mmol, 104.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-{4-(2,3,4-trimethoxybenzyl)piperazin-1-yl}-3-chloropropan-1-one | 0.552 mmol, 196.9 mg | COC1=C(CN2CCN(CC2)C(CCCl)=O)C=CC(=C1OC)OC | C17H25ClN2O4
product | 3-amino-1-[{4-(2,3,4-trimethoxybenzyl)piperazin-1-yl}propanoyl]-6-N-(p-methoxyphenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one | NC1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)OC)=O)C(CCN2CCN(CC2)CC2=C(C(=C(C=C2)OC)OC)OC)=O | C30H38N6O6
